US07452905B2
Process 3 Synthesis of 2,6-dichloro-4-methanesulfonylamino Benzoic Acid Methylester
The mixture of 100 mg of 2,6-dichloro-4-[bis(methanesulfonyl)amino] benzoic acid methylester, 3 ml of an aqueous solution of 1N sodium hydroxide and 10 ml of ethanol was stirred. After the solvent was removed, the obtained substance was treated by an ordinary method using ethyl acetate as an extractant to obtain the title compound.

reactant | 2,6-dichloro-4-[bis(methanesulfonyl)amino] benzoic acid methylester | 100 mg | COC(C1=C(C=C(C=C1Cl)N(S(=O)(=O)C)S(=O)(=O)C)Cl)=O | C10H11Cl2NO6S2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,6-dichloro-4-methanesulfonylamino Benzoic Acid Methylester | COC(C1=C(C=C(C=C1Cl)NS(=O)(=O)C)Cl)=O | C9H9Cl2NO4S
